US08242145B2
Step 7: {3-[4-Ethylcarbamoyl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
{3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid (0.2 g, 0.49 mmol) and ethylamine (2M in THF; 10 mL) were combined in a sealed tube and flushed with carbon monoxide for 5 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.057 g, 0.05 mmol) was added, and the solution was flushed with carbon monoxide for 10 minutes. The tube was sealed and heated to 100° C. overnight. The crude mixture was purified by preparative HPLC to give the desired product.

reactant | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | 0.49 mmol, 0.2 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OCC1)=O | C18H16BrNO5
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.057 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylamine | 2M, 10 mL | C(C)N | C2H7N
product | {3-[4-Ethylcarbamoyl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | C(C)NC(=O)C1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OCC1)=O | C21H22N2O6
